US06255276B1
240 g (0.84 mol) of methyl Z-16-hydroxyhexadec-11-enoate and 50 g of potassium hydroxide were dissolved in 500 ml of methanol in a 3 liter flask. The mixture was heated to reflux temperature for 2 hours. Then, the methanol was distilled off and 800 ml of glycerol were added to the residue. 250 ml of glycerol were distilled off (150° C., 3 mmHg). 160 g (1.45 mol) of 3-chloropropane-1,2-diol were added slowly at 150° C. and the mixture was stirred at this temperature for 1 hour. Then, 200 ml of a mixture of 3-chloropropane-1,2-diol and glycerol were distilled off (120-148° C. 3 mmHg, internal temperature 160-170° C.). The mixture was cooled to 60° C. and treated at this temperature with 25 ml of 5.4M ethanolic sodium methanolate solution. The mixture was distilled further (3 mmHg, 180-200° C.) and glycerol was replaced continuously. After 950 ml of a two-phase mixture had been distilled off the residue was extracted with hexane. After distillation there were obtained 167 g (78%) of 12Z-oxacycloheptadec-12-en-2-one, were obtained having the following characteristics: Z/E=91/9;

reactant | methyl Z-16-hydroxyhexadec-11-enoate | 0.84 mol, 240 g | OCCCC\C=C/CCCCCCCCCC(=O)OC | C17H32O3
reactant | potassium hydroxide | 50 g | [OH-].[K+]
reactant | 3-chloropropane-1,2-diol | 1.45 mol, 160 g | ClCC(CO)O | C3H7ClO2
solvent | methanol | 500 ml | CO | CH4O
product | 12Z-oxacycloheptadec-12-en-2-one | 167 g, 78% | O1C(CCCCCCCCC\C=C/CCCC1)=O | C16H28O2
